US04705900
A solution of 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-ol (15 g) in dry dichloromethane (50 cm3) was added dropwise to a stirred suspension of pyridinium chlorochromate (18.75 g) in dichloromethane (100 cm3) whilst the reaction temperature was maintained within the range 0°-5° C. When the addition was complete, the mixture was allowed to warm to the ambient temperature (ca. 25° C.) over a period of 2 hours. After the reaction mixture had been diluted with diethyl ether, the ethereal layer was decanted and filtered through celite. The solvent was removed by evaporation and the residual oil purified by column chromatography using a silica gel column and eluting with dichloromethane as eluent, to yield 2,2-dimethyl-3-(3-phenoxybenzyloxy)propane-1-al (7.2 g) as an orange oil.

reactant | 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-ol | 15 g | CC(CO)(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C18H22O3
reactant | pyridinium chlorochromate | 18.75 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2-dimethyl-3-(3-phenoxybenzyloxy)propane-1-al | 7.2 g | CC(C=O)(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C18H20O3
